US06326386B1
[2-(3-Chloro-5-{[2-(2,2-dimethyl-propylsulfamoyl)-ethyl]-isopropyl-carbamoyl}-phenoxy)ethyl]-pyridin-4-yl-carbamic acid tert-butyl ester
To a stirred solution of 3-[2-(tert-butoxycarbonyl-pyridin-4-yl-amino)-ethoxy]-5-chloro-benzoic acid (0.030 g) and HATU® (0.058 g) in DMF (0.4 ml) was added DIPEA (0.040 ml) followed by a solution of 2-isopropylamino-ethanesulfonic acid (2,2-dimethyl-propyl)-amide (0.070 g) in DMF (0.6 ml) after 10 min. The reaction mixture was stirred at room temperature for 18 h and then concentrated under reduced pressure. The residue was subjected to preparative hplc and the title compound (0.042 g) was obtained as a colourless gum by concentration of the required fraction under reduced pressure and drying by repetitive addition of acetonitrile and concentration under reduced pressure.

reactant | 3-[2-(tert-butoxycarbonyl-pyridin-4-yl-amino)-ethoxy]-5-chloro-benzoic acid | 0.030 g | C(C)(C)(C)OC(=O)N(CCOC=1C=C(C(=O)O)C=C(C1)Cl)C1=CC=NC=C1 | C19H21ClN2O5
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.040 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-isopropylamino-ethanesulfonic acid (2,2-dimethyl-propyl)-amide | 0.070 g | CC(CNS(=O)(=O)CCNC(C)C)(C)C | C10H24N2O2S
solvent | DMF | 0.4 ml | CN(C)C=O | C3H7NO
solvent | DMF | 0.6 ml | CN(C)C=O | C3H7NO
product | [2-(3-Chloro-5-{[2-(2,2-dimethyl-propylsulfamoyl)-ethyl]-isopropyl-carbamoyl}-phenoxy)ethyl]-pyridin-4-yl-carbamic acid tert-butyl ester | 0.042 g | C(C)(C)(C)OC(N(C1=CC=NC=C1)CCOC1=CC(=CC(=C1)C(N(C(C)C)CCS(NCC(C)(C)C)(=O)=O)=O)Cl)=O | C29H43ClN4O6S
